US09382228B2
A mixture of 4-(trifluoromethoxy)butanoic acid (1.0 g, 5.81 mmol) and HOBt (1.157 g, 7.55 mmol) in MeCN (20 mL) was treated with EDC (1.448 g, 7.55 mmol) and stirred at RT for 2 h. Ammonium hydroxide (˜15M, 0.7 mL, ˜10.5 mmol) was added and the mixture stirred at RT for 20 h. The mixture was treated with Et2O, water and brine, the layers separated and the organic layer dried over Na2SO4 and concentrated to afford 4-(trifluoromethoxy)butanamide (1.024 g, 103%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 7.30 (s, 1H), 6.78 (s, 1H), 4.04 (t, J=6.4 Hz, 2H), 2.13 (t, J=7.4 Hz, 2H), 1.82 (m, 2H).

reactant | 4-(trifluoromethoxy)butanoic acid | 5.81 mmol, 1.0 g | FC(OCCCC(=O)O)(F)F | C5H7F3O3
reactant | HOBt | 7.55 mmol, 1.157 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 7.55 mmol, 1.448 g
reactant | Ammonium hydroxide | ˜10.5 mmol, ˜15M, 0.7 mL | [OH-].[NH4+]
solvent | MeCN | 20 mL | CC#N | C2H3N
solvent | brine | [Cl-].[Na+].O
solvent | water | O | H2O
solvent | Et2O | CCOCC | C4H10O
product | 4-(trifluoromethoxy)butanamide | 1.024 g, 103% | FC(OCCCC(=O)N)(F)F | C5H8F3NO2
